### PR TITLE
feat: add support for other types in norm_num

### PR DESCRIPTION
**Pull request by digama0**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/Result.lean [hunk 1]
```diff
@@ -279,6 +281,12 @@ and `q` is the value of `n / d`. -/
     ∀ (inst : Q(DivisionRing $α) := by assumption) (q : Rat) (n : Q(ℤ)) (d : Q(ℕ))
       (proof : Q(IsRat $x $n $d)), Result x := Result'.isRat
 
+/-- The result is `proof : isRat x n d`, where `n` is either `.ofNat lit` or `.negOfNat lit`
+with `lit` a raw nat literal and `d` is a raw nat literal (not 0 or 1),
+and `q` is the value of `n / d`. -/
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/Result.lean:286]: This doc comment is a verbatim copy of the `Result.isRat` comment. Did you mean to have something different here?

File: Mathlib/Tactic/NormNum/Structural.lean [hunk 2]
```diff
@@ -0,0 +1,141 @@
...
+  let ⟨b₂, p₂⟩ := (← derive a₂).toRawEq
+  return .other q(($b₁, $b₂)) q(congr (congrArg _ $p₁) $p₂)
+
+/-- The `norm_num` extension which identifies expressions of the form `[]`. -/
+@[norm_num []] def evalListNil : NormNumExt where eval {u α} e := do
+  let e' : Q($α) ← whnf e
+  have : $e =Q $e' := ⟨⟩
+  return .other e' q(@rfl _ $e')
+
+/-- The `norm_num` extension which identifies expressions of the form `(a, b)`,
```
Comment (dwrensha) [inline Mathlib/Tactic/NormNum/Structural.lean:55]: `(a, b)` -> `a::b`

File: test/norm_num.lean [hunk 3]
```diff
@@ -679,3 +679,5 @@ example : (1 : R PUnit.{u+1} PUnit.{v+1}) <= 2 := by
 
 -- Check that we avoid deep recursion in evaluating large powers.
 example : 10^40000000 = 10^40000000 := by norm_num
+
+example : (1 + 1, 2 * 2) = (2, 4) := by norm_num1
```
Comment (dwrensha) [inline test/norm_num.lean:683]: It would be good to add a similar test for lists.

**Comment by dwrensha** [comment]
I was excited about this PR because it looked like a good way to get `norm_num` to work on `Nat.digits`. However, now that simprocs exists (in Lean 4.6.0), `norm_num` already can handle `Nat.digits` (via `reduceLE`, `reduceMod`, etc.), and #10428 shows a way to provide finer-grained control.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
